US07705025B2
4-{4-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-phenyl}-thiophene-2-carbonitrile
The title compound is prepared in a manner substantially analogous General Procedure A using 4-bromo-thiophene-2-carbonitrile (CAS 18791-99-6) and [2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone to give the title compound. (150 mg, 30% yield). MS (ES+) 380.2 (M+H)+

reactant | 4-bromo-thiophene-2-carbonitrile | BrC=1C=C(SC1)C#N | C5H2BrNS
reactant | [2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H35BN2O3
product | 4-{4-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-phenyl}-thiophene-2-carbonitrile | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C=1C=C(SC1)C#N | C22H25N3OS
